US06800651B2
2-(3-Hydroxy-3-methyl)butyl-4-fluorophenol
A solution of 6-fluoro-2,2-dimethyl-chroman-4-one (EP 193493; 1 equiv.) in ethanol (0.24 M) was treated with copper chromite (0.6 equiv.). The reaction was heated to 200° C. for 6 hours at 3000 psi of hydrogen gas. The reaction was filtered and concentrated to a solid. The crude material was recrystallized form hot hexanes to give the title compound. MS found 198 [M+H]+

reactant | 6-fluoro-2,2-dimethyl-chroman-4-one | 1 equiv. | FC=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H11FO2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 0.24 M | C(C)O | C2H6O
catalyst | copper chromite | 0.6 equiv. | [Cr](=O)([O-])[O-].[Cu+2]
product | 2-(3-Hydroxy-3-methyl)butyl-4-fluorophenol | CC(C)(CCC1=C(C=CC(=C1)F)O)O | C11H15FO2
